US04242519
α-Methylthio-α-(m-phenoxyphenyl)propionic acid (288 mg) was dissolved in a mixture of 1 ml of t-butanol and 4 ml of tetrahydrofuran, and 100 mg of metallic sodium was added. The mixture was stirred at room temperature for 10 minutes. The mixture was heated under reflux for an additional 1.5 hours with stirring. After cooling, a small amount of ethanol was added to consume the unreacted metallic sodium completely. Water (20 ml) was added, and the pH of the mixture was adjusted to 1 with conc. hydrochloric acid. The mixture was extracted three times with 27 ml of diethyl ether. The extract was washed twice with 20 ml of water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and chromatographed on a silica gel column using methylene chloride as an eluent to afford 234 mg of α-(m-phenoxyphenyl)propionic acid in a yield of 97%.

reactant | α-Methylthio-α-(m-phenoxyphenyl)propionic acid | 288 mg | CSC(C(=O)O)(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H16O3S
reactant | sodium | 100 mg | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
solvent | t-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | α-(m-phenoxyphenyl)propionic acid | 234 mg, yield of 97% | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)O)C | C15H14O3
